US06248766B1
3-[[2-(2,2-Diphenylethyl)thio-4,5-dihydronaphtho[1,2-d]thiazol-6-yl]oxy]propionic Acid
Using ethyl 3-[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]propionate and 2,2-diphenylethyl iodide, the procedure of Example 21 was otherwise repeated to synthesize the title compound. Yield 29%.

reactant | ethyl 3-[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]propionate | SC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCCC(=O)OCC | C16H17NO3S2
reactant | 2,2-diphenylethyl iodide | C1(=CC=CC=C1)C(CI)C1=CC=CC=C1 | C14H13I
product | 3-[[2-(2,2-Diphenylethyl)thio-4,5-dihydronaphtho[1,2-d]thiazol-6-yl]oxy]propionic Acid | Yield 29% | C1(=CC=CC=C1)C(CSC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCCC(=O)O)C2=CC=CC=C2 | C28H25NO3S2
